US09376422B2
Step 5: synthesis of 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-hydroxycyclohexyl)-amino)-2-methylbenzamide
To a stirred solution of 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-oxocyclohexyl)amino)-2-methylbenzamide (0.30 g, 0.68 mmol) in MeOH was added NaBH4 (0.038 g, 1.01 mmol) slowly at 0° C. The resulting reaction mixture was stirred at 0° C. for 2 h. On completion, the reaction was quenched with water and extracted with ethyl acetate. The combined organic layers were washed with water, dried, concentrated under reduced pressure and the crude material obtained was purified by acetonitrile and ether washings to afford the title compound as a mixture of isomers (175 mg, 58%). LCMS: 446.35 (M+1)+; HPLC: 74.32% & 24.18% (@ 210-370 nm) (Rt; 5.157 & 5.276); Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.49 (s, 1H), 8.25 (s, 1H), 7.17 (s, 1H), 6.96 (s, 1H), 5.86 (s, 1H), 4.25 (d, 2H, J=4 Hz), 3.33 (m, 1H), 3.04 (m, 2H), 2.19 (s, 3H), 2.14 (s, 3H), 2.10 (s, 3H), 1.78 (m, 2H), 1.66 (m, 2H), 1.38 (m, 3H), 1.10 (m, 2H), 0.78 (t, 3H).

reactant | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-oxocyclohexyl)amino)-2-methylbenzamide | 0.68 mmol, 0.30 g | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCC(CC1)=O)CC | C24H30ClN3O3
reactant | NaBH4 | 1.01 mmol, 0.038 g | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-hydroxycyclohexyl)-amino)-2-methylbenzamide | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCC(CC1)O)CC | C24H32ClN3O3
